US06172057B2
2-[(2-Hydroxy-ethyl)-(3,4-dichloro-benzyl)-amino]-ethanol was prepared according to the general method as outlined in example 83. Starting from diethanolamine (4.84 g, 46 mmol) and 3,4-dichlorobenzyl chloride (9.0 g, 46 mmol). Yield 13.8 g (99%); colorless oil; MS: 264.3 (M+H)+.

reactant | diethanolamine | 46 mmol, 4.84 g | N(CCO)CCO | C4H11NO2
reactant | 3,4-dichlorobenzyl chloride | 46 mmol, 9.0 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
product | 2-[(2-Hydroxy-ethyl)-(3,4-dichloro-benzyl)-amino]-ethanol | OCCN(CCO)CC1=CC(=C(C=C1)Cl)Cl | C11H15Cl2NO2
